US04879313
B. Fmoc-Asp-2-(4-methoxyphenyl)ethyl amide
Fmoc-Asp(OtBu)-2-(4-methoxyphenyl)ethyl amide (5.44 g; 10 mmoles) was treated with 50% TFA/CH2Cl2 for 90 minutes at room temperature. The solvent was evaporated and the residue was triturated with ethyl ether/petroleum ether. The precipitate was dried and used without further purification.

reactant | Fmoc-Asp(OtBu) 2-(4-methoxyphenyl)ethyl amide | 10 mmoles, 5.44 g | N([C@@H](CC(OC(C)(C)C)=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12.COC1=CC=C(C=C1)CC[NH-]
reactant | TFA CH2Cl2 | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | Fmoc-Asp 2-(4-methoxyphenyl)ethyl amide | N([C@@H](CC(O)=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12.COC1=CC=C(C=C1)CC[NH-] | InChI=1S/C19H17NO6.C9H12NO/c21-17(22)9-16(18(23)24)20-19(25)26-10-15-13-7-3-1-5-11(13)12-6-2-4-8-14(12)15;1-11-9-4-2-8(3-5-9)6-7-10/h1-8,15-16H,9-10H2,(H,20,25)(H,21,22)(H,23,24);2-5,10H,6-7H2,1H3/q;-1/t16-;/m0./s1
